US07259160B2
To a stirred solution of methyl N-{3-[(tert-butoxycarbonyl)amino]-2-methylpropyl}-D-alaninate (2.5 g, −8.9 mmol) in dichloromethane (50 mL) was added Cbz-OSu (2.25 g, 9.0 mmol). The resulting mixture was stirred at room temperature for 3 days. The solvent was removed on a rotavap, and the crude product was purified by flash chromatography on a Biotage® system (silica, 25-80% ethyl acetate in hexanes) to yield methyl N-[(benzyloxy)carbonyl]-N-{3-[(tert-butoxycarbonyl)amino]-2-methylpropyl}-D-alaninate as colorless viscous oil. MS (M+1−Boc): 309.4

reactant | methyl N-{3-[(tert-butoxycarbonyl)amino]-2-methylpropyl}-D-alaninate | −8.9 mmol, 2.5 g | C(C)(C)(C)OC(=O)NCC(CN[C@H](C)C(=O)OC)C | C13H26N2O4
reactant | Cbz-OSu | 9.0 mmol, 2.25 g | C(=O)(OCC1=CC=CC=C1)ON1C(=O)CCC1=O | C12H11NO5
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | methyl N-[(benzyloxy)carbonyl]-N-{3-[(tert-butoxycarbonyl)amino]-2-methylpropyl}-D-alaninate | C(C1=CC=CC=C1)OC(=O)N([C@H](C)C(=O)OC)CC(CNC(=O)OC(C)(C)C)C | C21H32N2O6
